US05441969
2-Amino-1-[4-(2-furyl)phenyl]benzimidazole was prepared from 1 -(2-amino-1-benzimidazolyl)-4-iodobenzene and 2-trimethylstannylfuran according to method C, mp 210°-212° C.

reactant | 1 -(2-amino-1-benzimidazolyl)-4-iodobenzene | NC1=NC2=C(N1C1=CC=C(C=C1)I)C=CC=C2 | C13H10IN3
reactant | 2-trimethylstannylfuran | C[Sn](C=1OC=CC1)(C)C
product | 2-Amino-1-[4-(2-furyl)phenyl]benzimidazole | NC1=NC2=C(N1C1=CC=C(C=C1)C=1OC=CC1)C=CC=C2 | C17H13N3O
